US08466176B2
To a stirred solution of [6-(hydroxymethyl)pyridin-2-yl]carbamate (200 mg, 1.07 mmol) in DMF, cooled to 0° C. with a brine/ice bath, was added potassium tert-butoxide (126 mg, 1.07 mmol). The mixture was stirred 5 minutes at 0° C. then 1-bromo-2cyclohexylethane (205 mg, 1.07 mmol) was added. After stirring at room temperature for 4 h, the reaction mixture was diluted with ethyl acetate and water. The organic layer was washed with water, dried over MgSO4 and concentrated in vacuo. Purification on silica gel afforded tert-butyl (2-cyclohexylethyl)[6-(hydroxymethyl)pyridin-2-yl]carbamate as a yellow oil [240 mg, yield 64%; HPLC/MS: m/z=335 (M+H); logP(HCOOH)=4.49]

reactant | [6-(hydroxymethyl)pyridin-2-yl]carbamate | 1.07 mmol, 200 mg | OCC1=CC=CC(=N1)NC([O-])=O
reactant | potassium tert-butoxide | 1.07 mmol, 126 mg | CC(C)([O-])C.[K+]
reactant | 1-bromo-2cyclohexylethane | 1.07 mmol, 205 mg | BrCCC1CCCCC1 | C8H15Br
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | tert-butyl (2-cyclohexylethyl)[6-(hydroxymethyl)pyridin-2-yl]carbamate | yield 64% | C1(CCCCC1)CCN(C(OC(C)(C)C)=O)C1=NC(=CC=C1)CO | C19H30N2O3
